US07968583B2
Preparation of 5-(3,5-difluoro-benzenesulfonyl)-3-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-benzoylamino]-6,6-dimethyl-5,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-2-carboxylic acid ethyl ester
To a suspension of 3-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-benzoylamino]-6,6-dimethyl-5,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-2-carboxylic acid ethyl ester hydrochloride (1.24 g, 2.4 mmol) in dry dichloromethane (30 mL) was added N,N-diisopropylethylamine (1.67 mL, 9.6 mmol) and 3,5-difluorobenzenesulfonyl chloride (0.77 g, 3.6 mmol). After stirring at room temperature for 3 hours the mixture was diluted with dichloromethane (50 mL), washed with 1N HCl, water, saturated solution of NaHCO3, brine, dried over sodium sulfate and evaporated to dryness. The crude was purified by flash chromatography on silica gel eluting with ethyl acetate and then with dichloromethane/methanol 98:2 affording the title compound as white solid (1.4 g).

reactant | 3-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-benzoylamino]-6,6-dimethyl-5,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-2-carboxylic acid ethyl ester hydrochloride | 2.4 mmol, 1.24 g | Cl.C(C)OC(=O)N1N=C2C(=C1NC(C1=C(C=CC=C1)CN1C(C3=CC=CC=C3C1=O)=O)=O)CNC2(C)C
reactant | N,N-diisopropylethylamine | 9.6 mmol, 1.67 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3,5-difluorobenzenesulfonyl chloride | 3.6 mmol, 0.77 g | FC=1C=C(C=C(C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 5-(3,5-difluoro-benzenesulfonyl)-3-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-benzoylamino]-6,6-dimethyl-5,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-2-carboxylic acid ethyl ester | C(C)OC(=O)N1N=C2C(=C1NC(C1=C(C=CC=C1)CN1C(C3=CC=CC=C3C1=O)=O)=O)CN(C2(C)C)S(=O)(=O)C2=CC(=CC(=C2)F)F | C32H27F2N5O7S
